US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-carboxylic acid
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-bromobenzoic acid. MS (ESI): mass calcd. for C17H12FN3O2, 309.09; m/z found, 310.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 12.88 (s, 1H), 8.36 (s, 1H), 8.02 (s, 1H), 7.87 (m, 1H), 7.76 (d, J=7.5, 1H), 7.60 (m, 1H), 7.50 (d, J=7.2, 1H), 7.44 (d, J=8.2, 1H), 7.25 (d, J=5.1, 1H), 7.22 (s, 1H), 6.70 (s, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromobenzoic acid | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-carboxylic acid | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)F | C17H12FN3O2
